Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope

 
Major Surgical or Invasive Procedure:
AVNRT ablation ___

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:
___ with a history of atrial flutter (on apixaban), CAD,
pre-diabetes, BPH, who presented following an episode of 
syncope.

Patient was in his usual state of health as of earlier today, 
but
has been under a lot of stress due to family/personal issues. He
was at a restaurant on ___, walking towards the table, when he
developed dizziness and light-headedness. He attempted to sit on
a chair but slid off, striking his face against the ground.
Denied chest pain, shortness of breath, or palpitations prior to
falling. Unclear if lost consciousness, but wife said she saw 
him
"shaking". No tongue biting or incontinence. However, seconds
later he was awake and alert. Although he felt tired, denied
confusion, headache, changes in vision, focal neurological
symptoms, or "fogginess" of mind. No other episodes of syncope
previously.

Of note, patient reports two episodes of tachycardia to 150
during the month of ___, associated with palpitations and chest
discomfort. Was evaluated at ___ on both
occasions, one of which resulted in referral to the ED; no
changes were made to medications and both self resolved.

In the ED, initial VS were notable for;
Temp 97.8  HR 84  BP 147/57  RR 20  SaO2 98% RA

Examination notable for;
RRR, no murmurs/rubs/gallops, clear lungs bilaterally, no
wheezes/rhonchi/rales, soft/non-tender abdomen, no CVA
tenderness, awake and alert, moving all four extremities.

Labs were notable for;
WBC 8.8  Hgb 14.9  Plt 186
___ 14.9  PTT 33.1  INR 1.4
Na 139  K 4.7  Cl 100  HCO3 19  BUN 21  Cr 0.8  AnGap 20
Ca 9.0  Mg 2.0  Phos 3.3
D-dimer 238  Lactate 2.3

Urine studies were unremarkable.

ECG (14:10) demonstrated sinus rhythm at 87 bpm, leftward axis,
mildly prolonged QTc, otherwise normal intervals, no pathologic
Q-waves, early R wave transition, no ischemic ST changes, no
previous for comparison.

ECG (17:42) demonstrated SVT at 136bpm, left axis deviation, p
waves immediately before and after QRS concerning for AVRT vs.
AVNRT, early R wave transition, non-specific ST-T abnormalities
likely in setting of tachycardia.

ECG (18:15) demonstrates sinus tachycardia at 104 bpm with PVC,
leftward axis, mildly prolonged QTc, otherwise normal intervals,
early R wave transition, non-specific ST-T changes, similar to
initial ECG.

CXR demonstrated no acute cardiopulmonary process. CT head
without acute intracranial process or fracture. CT C-spine with
no acute fracture or traumatic misalignment, but did highlight
mild-to-moderate multilevel degenerative changes of the cervical
spine, worse at C6-C7. 

While in the ED, patient flipped in to SVT at rates in 140-150s,
with associated hypotension to ___. Vagal maneuvers unsuccessful
in converting patient. Given IV adenosine 6mg with conversion to
sinus rhythm and improvements in systolic blood pressures to
140s. Of note, also found to have urinary retention of 1L, for
which Foley catheter was placed.

Cardiology were consulted; agree with admission to cardiology,
monitor on telemetry, continue home medications, repeat
vagal/nodal maneuvers for recurrent symptomatic or
hemodynamically significant SVT.

Patient was given;
- IV adenosine 6mg

Vital signs on transfer were notable for;
Temp 98.3  HR 76  BP 112/67  RR 16  SaO2 95% RA 

Upon arrival to the floor, patient repeats the above story.
During episdoe of tachycardia in the ED, denied any symptoms.
Currently, aside from feeling tired, he is asymptomatic.

10-point review of systems otherwise notable.

 
Past Medical History:
- Atrial flutter (on apixaban)
- CAD (medically managed)
- Pre-diabetes
- BPH

 
Social History:
___
Family History:
Both parents died of heart disease. Sister with a history
coronary artery disease requiring PCI on two occasions. 
 
Physical Exam:
ADMISSION PHYSCIAL EXAMINATION:
===============================
VS: Temp: 98.1 BP: 150/89 HR: 73 RR: 20 SaO2 96% RA 
GENERAL: lying comfortably in bed, no acute distress
HEENT: AT/NC, no conjunctival pallor, anicteric sclera, MMM
NECK: supple, non-tender, no JVP elevation
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheezes/crackles
___: soft, non-tender, no distention, BS normoactive 
EXTREMITIES: warm, well perfused, no lower extremity edema
NEURO: A/O x3, moving all four extremities with purpose, CNs
grossly intact 

DISCHARGE PHYSICAL EXAM:
========================
GENERAL: lying comfortably in bed, no acute distress
HEENT: AT/NC, no conjunctival pallor, anicteric sclera, MMM
NECK: supple, non-tender, no JVP elevation
CV: RRR, S1 and S2 normal, no murmurs/rubs/gallops
RESP: CTAB, no wheezes/crackles
___: soft, non-tender, no distention
EXTREMITIES: warm, well perfused, no lower extremity edema
NEURO: A/O x3, moving all four extremities with purpose, CNs
grossly intact 
 
Pertinent Results:
ADMISSION LABS:
==============
___ 02:28PM BLOOD WBC-8.8 RBC-4.81 Hgb-14.9 Hct-44.4 MCV-92 
MCH-31.0 MCHC-33.6 RDW-12.8 RDWSD-43.5 Plt ___
___ 02:28PM BLOOD ___ PTT-33.1 ___
___ 02:28PM BLOOD Glucose-146* UreaN-21* Creat-0.8 Na-139 
K-4.7 Cl-100 HCO3-19* AnGap-20*
___ 05:20PM BLOOD Lactate-2.3*

NOTABLE LABS:
=============
___ 06:53AM BLOOD WBC-12.0* RBC-5.20 Hgb-16.0 Hct-47.7 
MCV-92 MCH-30.8 MCHC-33.5 RDW-12.8 RDWSD-43.2 Plt ___
___ 06:37AM BLOOD WBC-11.0* RBC-5.10 Hgb-15.7 Hct-47.2 
MCV-93 MCH-30.8 MCHC-33.3 RDW-12.9 RDWSD-43.7 Plt ___
___ 06:20AM BLOOD WBC-11.9* RBC-5.49 Hgb-17.0 Hct-50.5 
MCV-92 MCH-31.0 MCHC-33.7 RDW-12.9 RDWSD-43.2 Plt ___
___ 07:27AM BLOOD WBC-13.3* RBC-5.28 Hgb-16.7 Hct-49.6 
MCV-94 MCH-31.6 MCHC-33.7 RDW-13.1 RDWSD-44.5 Plt ___

MICRO:
======
URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

IMAGING:
========
CXR ___: 
IMPRESSION:    
No acute cardiopulmonary process. 

CT Head w/o contrast ___:
IMPRESSION:  
No acute intracranial process or fracture. 

TTE ___:
IMPRESSION: Suboptimal image quality. No structural cardiac 
cause of syncope identified. Normal left ventricular wall 
thickness and biventricular cavity sizes and regional/global 
biventricular
systolic function. Mild aortic regurgitation.

DISCHARGE LABS:
===============
___ 07:27AM BLOOD WBC-13.3* RBC-5.28 Hgb-16.7 Hct-49.6 
MCV-94 MCH-31.6 MCHC-33.7 RDW-13.1 RDWSD-44.5 Plt ___
___ 07:27AM BLOOD Calcium-9.8 Phos-4.0 Mg-2.3
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
[]Repeat CBC within 1 week. WBC on discharge ___: 13.3. No 
concern for infection
[]Event monitor will be mailed to patient and is to be worn for 
2 weeks. 

___ COURSE:
====================
___ with a history of atrial flutter (on apixaban), CAD, 
pre-diabetes, BPH, who presented following an episode of 
syncope, subsequently with episode of AVNRT requiring adenosine 
in the ED, and hospitalized for AVNRT ablation. 

# AVNRT 
# History of atrial flutter
In the ED, patient had an episode of SVT to 140-150s, associated 
with hypotension to ___, during which patient was asymptomatic. 
No improvement with vagal maneuvers, and thus IV adenosine was 
required to convert to sinus rhythm. ECG during episode notable 
for AVNRT. Of note, patient did have two episodes of 
self-resolving tachycardia in ___. EP was consulted and 
patient underwent successful ablation of AVNRT. No elicitation 
of atrial flutter and CTI ablation not performed. The ablation 
may result in reduced arrhythmia burden or even complete freedom 
from AVNRT. Patient is to continue taking apixaban 5mg twice 
daily. For rate and better blood pressure control, patient was 
transitioned to Coreg 3.125mg BID instead of diltiazem. Patient 
will be mailed an event monitor following discharge. 

# Syncope
Presented following a syncopal episode, preceded by 
light-headedness and dizziness, without post-ictal symptoms. CT 
head and CT-C spine without evidence of acute injury. Likely 
etiology is vagal event during AVNRT, but other possibilities 
include conversion pauses or other arrhythmias. TTE was 
reassuring. Rest of plan as above. If further runs of AVNRT 
clearly correlate with symptoms/syncope, then another attempt at 
ablation can be considered (vs uptitration of BB vs 
antiarrhythmic medications). However, at this point, the risks 
of another ablation attempt outweigh the benefits.

# Urinary retention
# BPH
Noted to be retaining up to 1L of urine, and Foley catheter was 
placed but shortly discontinued after successful void trial. 
Continued Tamsulosin 0.4mg daily (patient takes in AM).

#HTN
Started Coreg 3.125mg PO BID.

# Pre-diabetes 
Placed on HISS in place of home metformin 500mg daily 

# CAD 
Patient's aspirin 81mg daily was discontinued since he has no 
stents and apixaban has similar efficacy as aspirin. Dual 
therapy with apixaban and aspirin increases patient's bleeding 
risk. Continued rosuvastatin 20mg daily and continued ISMN 30mg 
daily.

#CODE STATUS: Full (confirmed)
#CONTACT: ___, wife, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. Rosuvastatin Calcium 20 mg PO QPM 
4. Tamsulosin 0.4 mg PO QHS 
5. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
6. Diltiazem Extended-Release 180 mg PO DAILY 
7. MetFORMIN (Glucophage) 500 mg PO DAILY 

 
Discharge Medications:
1.  CARVedilol 3.125 mg PO BID 
RX *carvedilol 3.125 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*1 
2.  Apixaban 5 mg PO BID  
3.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
4.  MetFORMIN (Glucophage) 500 mg PO DAILY  
5.  Rosuvastatin Calcium 20 mg PO QPM  
6.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
=================
Atrioventricular nodal reentry tachycardia (AVNRT)
Atrial flutter

SECONDARY DIAGNOSIS:
====================
Coronary artery disease
Benign prostatic hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,  

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were in the hospital because you passed out and the 
ambulance brought you to the ED. In the ED, they found out that 
you most likely had an abnormal heart rhythm called 
atrioventricular nodal reentry tachycardia (AVNRT). 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You underwent an ablation performed by the electrophysiology 
(EP) doctors. 
- They ablated the part of the heart causing the AVNRT. However, 
it is still possible that you may experience this heart rhythm 
and that you may become symptomatic from it.
- They did not ablate the part of the heart that causes atrial 
flutter.    

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications and follow-up 
with your appointments as listed below.
-You will be mailed an event monitor in order to track your 
heart rhythms.

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___